US03987039
To a solution of 3-ethoxyiminomethyl-7-(2-thienylacetamido)- 3-cephem-4-carboxylic acid-1-oxide (100 mg) in N,N-dimethylformamide (5 ml) is added stannous chloride (100 mg) at 0° C under nitrogen atmosphere, and acetyl chloride (0.8 ml) is added dropwise to the stirred mixture. After 90 minutes, the reaction mixture is added a few piece of ice, and stirred for 10 minutes, and then extracted with ethyl acetate. The extract solution is washed with saturated saline solution and saturated aqueous sodium hydrogen carbonate, dried and evaporated to give residue which on recrystallization from a mixture of methylene chloride and ether gives 3-ethoxyiminomethyl-7-(2-thienylacetamido)- 3-cephem-4carboxylic acid. m.p. 177°-183° C (decomp.).

reactant | 3-ethoxyiminomethyl-7-(2-thienylacetamido)- 3-cephem-4-carboxylic acid-1-oxide | 100 mg | C(C)ON=CC=1CS([C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O)=O | C16H17N3O6S2
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-ethoxyiminomethyl-7-(2-thienylacetamido)- 3-cephem-4carboxylic acid | C(C)ON=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C16H17N3O5S2
